US06090941
A solution of 7'-bromo-3', 4'-dihydrospiro[1,3-dioxolane-2,2'(1H)-naphthalene](3.40 g, 12.6 mmol), trimethylsilylacetylene (7.0 ml), 50 mmol) (Aidrich), triphenyephosphine (0.66 g, 2.50 mmol), and palladium acetate (0.28 g, 1.2 mmol) in triethylamine (18 ml) was stirred at 70° C. for 18 hours and then concentrated in vacuo. The residue was absorbed onto silica gel from a diethyl ether solution and partially purified by elution through silica gel (15 g) with diethyl ether: hexane (1:9). Further purification by chromatography on silica gel eluting with ethyl acetate:hexane (1:19) gave 3', 4'-dihydro-7'[2-(trimethylsilyl)-ethynyl]spiro[1,3-dioxolane-2,2'(1'H)-naphthalene] (1.45 g). 1H NMR (CDCl3 200 MHz) δ: 0.23 (s, 9H, SiMe3) 1.93 (t, J=7 Hz, 2 CH2), 2.95 (t, J=7 Hz, 2H, CH2) 4.02 (s, 4H, OCH2CH2O), 7.03 (d, J=8 Hz, 1H, Ar), 7.17 (s, 1H, Ar), 7.21 (d, J=8 Hz, 1H, Ar).

reactant | 7'-bromo-3', 4'-dihydrospiro[1,3-dioxolane-2,2'(1H)-naphthalene] | 12.6 mmol, 3.40 g | BrC1=CC=C2CCC3(CC2=C1)OCCO3 | C12H13BrO2
reactant | trimethylsilylacetylene | 7.0 ml | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 1.2 mmol, 0.28 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3', 4'-dihydro-7'[2-(trimethylsilyl)-ethynyl]spiro[1,3-dioxolane-2,2'(1'H)-naphthalene] | 1.45 g | C[Si](C#CC1=CC=C2CCC3(CC2=C1)OCCO3)(C)C | C17H22O2Si
